US04088817
The product contained 88.95% of 4-(2-nitrobutyl)-morpholine and 3.85% 4,4'-(2-nitro-2-ethyltrimethylene)-dimorpholine. The P-1487 product produced when screened for eye irritation properties was found to be non-lachrymatory.

reactant | 4-(2-nitrobutyl)-morpholine | [N+](=O)([O-])C(CN1CCOCC1)CC | C8H16N2O3
reactant | 4,4'-(2-nitro-2-ethyltrimethylene)-dimorpholine | [N+](=O)([O-])C(CN1CCOCC1)(CN1CCOCC1)CC | C13H25N3O4
product | P-1487 | CCC(CN1CCOCC1)[N+](=O)[O-].CCC(CN1CCOCC1)(CN2CCOCC2)[N+](=O)[O-] | InChI=1S/C13H25N3O4.C8H16N2O3/c1-2-13(16(17)18,11-14-3-7-19-8-4-14)12-15-5-9-20-10-6-15;1-2-8(10(11)12)7-9-3-5-13-6-4-9/h2-12H2,1H3;8H,2-7H2,1H3
